US04260816
4-{[2-(4-Cyano-1-naphthyloxy)ethyl]amino}benzoic acid
A solution of 4.3 g. of ethyl 4-[N-trifluoroacetyl-2-(4-cyano-1-naphthyloxy)ethylamino]benzoate and 4.3 g. of potassium hydroxide in 100 ml. of 95% ethanol is refluxed for 3 hours. After cooling, diluting with 100 ml. of water and acidification to pH 4 with concentrated hydrochloric acid, the white solid is collected, washed with water and dried, m.p. 254°-256° C.

reactant | ethyl 4-[N-trifluoroacetyl-2-(4-cyano-1-naphthyloxy)ethylamino]benzoate | FC(C(=O)N(C1=CC=C(C(=O)OCC)C=C1)CCOC1=CC=C(C2=CC=CC=C12)C#N)(F)F | C24H19F3N2O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-{[2-(4-Cyano-1-naphthyloxy)ethyl]amino}benzoic acid | C(#N)C1=CC=C(C2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C20H16N2O3
